US07326731B2
Combine 3-fluorobiphenyl-4-carboxylic acid 10.46 g (0.048 mol), 432 mL of methylene chloride, 7 drops of dimethylformamide, and 5.44 mL (0.062 mol, 1.3 equiv) of oxalyl chloride. After 2 h, evaporate the solvent to afford 3-fluorobiphenyl-4-carbonyl chloride as a solid.

reactant | 3-fluorobiphenyl-4-carboxylic acid | 0.048 mol, 10.46 g | FC=1C=C(C=CC1C(=O)O)C1=CC=CC=C1 | C13H9FO2
reactant | oxalyl chloride | 0.062 mol, 5.44 mL, 1.3 equiv | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | dimethylformamide | 7 drops | CN(C=O)C | C3H7NO
solvent | methylene chloride | 432 mL | C(Cl)Cl | CH2Cl2
product | 3-fluorobiphenyl-4-carbonyl chloride | FC=1C=C(C=CC1C(=O)Cl)C1=CC=CC=C1 | C13H8ClFO
